US05264454
A mixture of 6-(2-chlorobenzoyl)-5-(2-chlorobenzoylamino)indan (16.0 g) and 70% H2SO4 (100 ml) was heated at 120° C. for 30 minutes and, then, poured in ice-water (300 ml). The solution was alkalinized with concentrated aqueous ammonia and extracted with ethyl acetate. The extract was washed with water and dried (MgSO4) and the solvent was distilled off to give 5-amino-6-(2-chlorobenzoyl)indan as yellow oil (10.0 g, 94.3%). Recrystallization from hexane gave yellow prisms, m.p. 90°-92°.

reactant | 6-(2-chlorobenzoyl)-5-(2-chlorobenzoylamino)indan | 16.0 g | ClC1=C(C(=O)C2=C(C=C3CCCC3=C2)NC(C2=C(C=CC=C2)Cl)=O)C=CC=C1 | C23H17Cl2NO2
reactant | ammonia | N | H3N
solvent | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
product | 5-amino-6-(2-chlorobenzoyl)indan | 10.0 g, 94.3% | NC=1C=C2CCCC2=CC1C(C1=C(C=CC=C1)Cl)=O | C16H14ClNO
